US04931444
A mixture of 3 parts of 1-(4-nitrophenyl)-2,4(1H,3H)-pyrimidinedione, 1,4 parts of potassium hydroxide and 67.5 parts of N,N-dimethylacetamide was stirred for 1 hour at room temperature under nitrogen atmosphere. 1.52 Parts of bromoethane were added and stirring was continued overnight at room temperature. The reaction mixture was poured into 100 parts of ice water. The product was filtered off and stirred in methanol. The product was filtered off and dried in vacuo at 60° C., yielding 2.4 parts (65.6%) of 3-ethyl-1-(4-nitro-phenyl)-2,4(1H,3H)-pyrimidinedione; mp. 182.5° C. (int. 24).

reactant | 1-(4-nitrophenyl)-2,4(1H,3H)-pyrimidinedione | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NC(C=C1)=O)=O | C10H7N3O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | bromoethane | BrCC | C2H5Br
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 3-ethyl-1-(4-nitro-phenyl)-2,4(1H,3H)-pyrimidinedione | 65.6% | C(C)N1C(N(C=CC1=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H11N3O4
